US07700633B2
3-Bromonaphthalene-2,7-diol (1.40 g, 5.88 mmol) is dissolved in 20 mL of DMF. Potassium carbonate (2.44 g, 17.6 mmol) is added and the mixture is heated to 60° C. Benzyl bromide (2.10 mL, 17.64 mmol) is added and heating is continued for 5 h, after which time the reaction is poured into water and extracted with MTBE. The combined organics are dried and evaporated to afford 3,6-bis-benzyloxy-2-bromonaphthalene as a brown solid, which is of sufficient purity to take on to the next step.

reactant | 3-Bromonaphthalene-2,7-diol | 5.88 mmol, 1.40 g | BrC=1C(=CC2=CC(=CC=C2C1)O)O | C10H7BrO2
reactant | Potassium carbonate | 17.6 mmol, 2.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl bromide | 17.64 mmol, 2.10 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3,6-bis-benzyloxy-2-bromonaphthalene | C(C1=CC=CC=C1)OC=1C(=CC2=CC=C(C=C2C1)OCC1=CC=CC=C1)Br | C24H19BrO2
